US05708008
5-(4-phenylbenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Reacting 12.0 mg (0.05 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole with 20.0 mg (0.10 mMol) 4-phenylbenzoic acid at 70° C., 10.0 mg (49%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.05 mMol, 12.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 4-phenylbenzoic acid | 0.10 mMol, 20.0 mg | C1(=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O2
product | 5-(4-phenylbenzoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | C1(=CC=CC=C1)C1=CC=C(C(=O)NC=2C=C3C(=CNC3=CC2)C2CCN(CC2)C)C=C1 | C27H27N3O
